subckt oai31_x1 A1 A2 A3 B X VDD VSS
OAI31OR0_PA0 (pmid1 A1 VDD VDD) pmos w=2u l=100n
OAI31OR0_PB0 (pmid2 A2 pmid1 VDD) pmos w=2u l=100n
OAI31OR0_PC0 (oai31_or_n A3 pmid2 VDD) pmos w=2u l=100n
OAI31OR0_NA0 (oai31_or_n A1 VSS VSS) nmos w=1u l=100n
OAI31OR0_NB0 (oai31_or_n A2 VSS VSS) nmos w=1u l=100n
OAI31OR0_NC0 (oai31_or_n A3 VSS VSS) nmos w=1u l=100n
OAI31ORI0_P0 (oai31_or oai31_or_n VDD VDD) pmos w=2u l=100n
OAI31ORI0_N0 (oai31_or oai31_or_n VSS VSS) nmos w=1u l=100n
OAI31N20_PA0 (X oai31_or VDD VDD) pmos w=2u l=100n
OAI31N20_PB0 (X B VDD VDD) pmos w=2u l=100n
OAI31N20_NB0 (X B nmid_OAI31N20_0 VSS) nmos w=1u l=100n
OAI31N20_NA0 (nmid_OAI31N20_0 oai31_or VSS VSS) nmos w=1u l=100n
ends oai31_x1
